Resettable integrator example

.control
pre_codemodel build/ngfuncs.cm
.endc

.include lib/ngfuncs.lib

Vin in 0 dc 1
Vrst rst 0 pulse(0 1 0.5 1n 1n 20m 1)

Xint in rst out NG_INT_RISE params: ic=0 gain=1 vth=0.5

Rin in 0 1G
Rrst rst 0 1G
Rout out 0 1G

.tran 1m 1.2

.control
run
plot v(in) v(rst) v(out)
.endc

.end

